US08809552B2
6-Pyrimidin-2-yl-2,6-diaza-spiro[3.3]heptane-2-carboxylic acid 2,4-dichloro-benzylamide
In analogy to the experimental procedure of example 1a) 2-Pyrimidin-2-yl-2,6-diaza-spiro[3.3]heptane instead of 6-(tert-butoxycarbonyl)-2,6-diaza-spiro[3.3]heptane oxalate was converted using 2,4-dichloro-1-(isocyanatomethyl)benzene into the title compound (32 mg, 62%) which was obtained as a colorless solid. MS (EI) m/e: 378.1 (M+H)+.

reactant | 2-Pyrimidin-2-yl-2,6-diaza-spiro[3.3]heptane | N1=C(N=CC=C1)N1CC2(C1)CNC2 | C9H12N4
reactant | 2,4-dichloro-1-(isocyanatomethyl)benzene | ClC1=C(C=CC(=C1)Cl)CN=C=O | C8H5Cl2NO
product | 6-Pyrimidin-2-yl-2,6-diaza-spiro[3.3]heptane-2-carboxylic acid 2,4-dichloro-benzylamide | 32 mg, 62% | ClC1=C(CNC(=O)N2CC3(C2)CN(C3)C3=NC=CC=N3)C=CC(=C1)Cl | C17H17Cl2N5O
